US07423052B2
Description 91 (RS)-1-Benzyl-2-[5-(4fluoro-phenyl)tetrazol-2-ylmethyl]-piperidine
N-Benzyl-2-bromomethylpiperidine (2.1 g), 5-(4-fluoro-phenyl)-2H-tetrazole (1.28 g) and potassium carbonate (6 g) were combined in xylene (100 ml) containing diisopropylethylamine (7 ml) and boiled for 16 h. The reaction mixture was cooled to room temperature, filtered, solvent removed at reduced pressure and the residue column chromatographed (silica gel; diethyl ether/petroleum ether 40:60 eluant) to give after combining appropriate fractions and removing solvent at reduced pressure the title compound 1.44 g.

reactant | N-Benzyl-2-bromomethylpiperidine | 2.1 g | C(C1=CC=CC=C1)N1C(CCCC1)CBr | C13H18BrN
reactant | 5-(4-fluoro-phenyl)-2H-tetrazole | 1.28 g | FC1=CC=C(C=C1)C=1N=NNN1 | C7H5FN4
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethylamine | 7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (RS)-1-Benzyl-2-[5-(4fluoro-phenyl)tetrazol-2-ylmethyl]-piperidine | C(C1=CC=CC=C1)N1C(CCCC1)CN1N=C(N=N1)C1=CC=C(C=C1)F | C20H22FN5
